US07064124B2
N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
N-(5-tert-Butoxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide (0.170 g, 0.309 mmol) was dissolved in formic acid (3.0 ml) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was concentrated and the obtained residue was purified by silica gel chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.109 g, 0.220 mmol, 71%).

reactant | N-(5-tert-Butoxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.309 mmol, 0.170 g | C(C)(C)(C)OC(=O)C=1C=CC(=NC1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C29H30N2O9
solvent | formic acid | 3.0 ml | C(=O)O | CH2O2
product | N-(5-Hydroxycarbonylpyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.220 mmol, 0.109 g, 71% | OC(=O)C=1C=CC(=NC1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C25H22N2O9
